US08609675B2
Step M—Synthesis of Ethyl 2-(4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)cyclohexyl)acetate (Int-5n)
To 10-20 mL microwave flask was added ethyl 2-(4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-chloropyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)cyclohexyl)acetate (Int-5m, 500 mg, 741 μmol), phenylboronic acid (181 mg, 1.48 mmol), K3PO4 (314 mg, 1.48 mmol), Pd(PPh3)4 (86 mg, 74 mol) and 3:1 1,4-dioxane:H2O (8 mL). The flask was flushed with argon and sealed. The reaction was stirred in a microwave at 150° C. for 30 minutes. After 30 minutes, the reaction was diluted with DCM and washed with H2O. The aqueous was extracted with DCM (x2) and the combined organic layers were dried over Na2SO4. The solvent was reduced in vacuo and the title compound was purified via silica gel chromatography.

reactant | ethyl 2-(4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-chloropyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)cyclohexyl)acetate | 741 μmol, 500 mg | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)Cl)C2CCC(CC2)CC(=O)OCC)COCC[Si](C)(C)C)(C)C | C33H52ClN5O4Si2
reactant | phenylboronic acid | 1.48 mmol, 181 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K3PO4 | 1.48 mmol, 314 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 74 mol, 86 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 8 mL | O | H2O
product | Ethyl 2-(4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)cyclohexyl)acetate | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2CCC(CC2)CC(=O)OCC)COCC[Si](C)(C)C)(C)C | C39H57N5O4Si2
